Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
___ 
1. Coronary artery bypass graft x 4.  Total arterial
revascularization.
2. Skeletonized left internal mammary artery sequential grafting 
to the diagonal and the left anterior descending artery.
3. Skeletonized free right internal mammary artery.  He has
had T graft off the left internal mammary artery to the distal
circumflex.
4. Left radial artery grafting to posterior descending artery.
5. Endoscopic harvesting of the left radial artery.

 
History of Present Illness:
Mr. ___ is a ___ year old male with past medical history of 
diabetes mellitus type 2, hypertension, hyperlipidemia, and 
renal cell carcinoma status post recent partial nephrectomy. He 
presented to ___ with chest pain. A stress test was positive 
with inferolateral ischemia, moderate size, moderate 
reversibility and overall normal LV systolic function with an 
ejection fraction of 55%. He ruled in for non-ST elevation 
myocardial infarction and was transferred to ___ for cardiac 
catheterization. The study revealed  three-vessel coronary 
artery disease. Cardiac surgery was consulted for coronary 
artery bypass graft evaluation.  

 
Past Medical History:
Primary:
Coronary Artery Disease/Non-ST Elevation Myocardial Infarction
s/p CABG x4

Secondary:
Back Pain 
Chronic Obstructive Pulmonary Disease
Diabetes Mellitus Type II
Hyperlipidemia
Hypertension
Knee Pain 
Obstructive Sleep Apnea
Renal Cell Carcinoma 
Surgical History:
Appendectomy
___ Fracture ORIF
Knee Surgery
Partial Nephrectomy

 
Social History:
___
Family History:
Father - history of coronary artery disease
 
Physical Exam:
Admit PE:
BP: 121/80.  HR: 102.  RR: 12.  O2 sat: 95% RA
Height: 75"  Weight: 225 lbs

General:
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______ 
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds 
+[x]
Extremities: Warm [x], well-perfused [x]  Edema [] 
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right:1+   Left:1+
DP           Right:1+   Left:1+
___           Right:1+   Left:1+
Radial       Right:1+   Left:1+
Carotid Bruit:        Right: -   Left:-

Discharge Exam:
Vital Signs  ___ @ 826)
Temp: 97.8, BP: 127/76, HR: 89, RR: 18, O2 sat: 96%  RA,
Wt: 218.92 lb/99.3 kg  Admission Weight: 225 lbs/102.6kg

General: NAD [x]  
Neurological: A/O x3 [x] non-focal [] 
HEENT:  PEERL [x] 
Cardiovascular: RRR [x]  Irregular []  Murmur [] Rub [] 
Respiratory: CTA [x]diminished bases.  No resp distress [x]
GI/Abdomen: Bowel sounds present [x] Soft [x] ND [x] NT [x]
Extremities: 
Right Upper extremity   Warm [x]  Edema - 
Left Upper extremity    Warm [x]  Edema -
Right Lower extremity   Warm [x]  Edema -
Left Lower extremity    Warm [x]  Edema -
Pulses:
DP             Right: +      Left: +
___             Right: +      Left: +
Radial         Right: +      Left: +
Skin/Wounds: Dry [x] intact [x]
Sternal: CDI [] no erythema or drainage []
                 Sternum stable [x] Prevena [x]
Lower extremity: Right [] Left []  CDI []
Upper extremity: Right [] Left [x]  CDI [x]

 
Pertinent Results:
STUDIES:
Cardiac Catheterization ___
right dominant
LM: 70% stenosis in the mid and distal segments.
LAD: 70% stenosis in the mid segment.
LCx: 70% stenosis in the mid and distal segments. OM1 and OM2 
are 
medium caliber vessels.
RCA: 95% stenosis in the distal segment. Collaterals from the 
distal segment of the LAD connect to the distal segment. The 
SinoAtrial, arising from the proximal segment, is a small 
caliber vessel. RPDA is a medium caliber vessel.

Carotid Ultrasound ___
There is less than 40% stenosis within the internal carotid 
arteries
bilaterally.

Transthoracic Echocardiogram ___
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color Doppler. The estimated right 
atrial pressure is ___ mmHg. There is mild symmetric left 
ventricular
hypertrophy with a normal cavity size. There is mild regional 
left ventricular systolic dysfunction with hypokinesis of the 
basal inferior and inferolateral segments (see schematic). 
Quantitative biplane left
ventricular ejection fraction is 50 %. Left ventricular cardiac 
index is normal (>2.5 L/min/m2). There is no resting left 
ventricular outflow tract gradient. No ventricular septal defect 
is seen. Diastolic
parameters are indeterminate. Normal right ventricular cavity 
size with normal free wall motion. The aortic sinus diameter is 
normal for gender with normal ascending aorta diameter for 
gender. The aortic arch is mildly dilated. There is no evidence 
for an aortic arch coarctation. The aortic valve leaflets (?#) 
are mildly thickened. There is no aortic valve stenosis. There 
is trace aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. There is 
trivial mitral regurgitation. The tricuspid valve leaflets 
appear structurally normal. There is physiologic tricuspid 
regurgitation. The pulmonary artery systolic pressure could not 
be estimated. There is a very small pericardial effusion.
IMPRESSION: Mild regional systolic dysfunction. No clinically 
significant valvular regurgitation or stenosis. Indeterminate 
pulmonary pressure.

PA/LAT CXR ___
-Small subpulmonic left pleural effusion has increased while 
fissural component has resolved.  Left basal atelectasis is 
mild.  Right lung and pleural space are normal.  Normal 
postoperative cardiomediastinal silhouette. 

=
================================================================
Admission Labs:
___ 06:10AM BLOOD WBC-8.4 RBC-4.77 Hgb-14.1 Hct-41.7 MCV-87 
MCH-29.6 MCHC-33.8 RDW-13.6 RDWSD-43.5 Plt ___
___ 06:10AM BLOOD ___ PTT-31.2 ___
___ 06:10AM BLOOD Glucose-192* UreaN-15 Creat-0.8 Na-141 
K-4.7 Cl-104 HCO3-20* AnGap-17
___ 06:10AM BLOOD ALT-51* AST-38 LD(LDH)-200 AlkPhos-58 
TotBili-0.5
___ 06:10AM BLOOD Albumin-4.3 Calcium-8.8 Phos-3.4 Mg-1.4*
___ 06:10AM BLOOD %HbA1c-8.7* eAG-203*

Discharge Labs:
___ 04:45AM BLOOD WBC-15.8* RBC-3.32* Hgb-9.9* Hct-30.2* 
MCV-91 MCH-29.8 MCHC-32.8 RDW-14.3 RDWSD-46.5* Plt ___
___ 04:45AM BLOOD Glucose-101* UreaN-23* Creat-0.8 Na-134* 
K-4.1 Cl-94* HCO3-26 AnGap-14
___ 04:45AM BLOOD Mg-1.___ yo male presenting with worsening pattern of exertional 
CP/SOB with increased cardiac biomarkers and EKG with inferior 
lead Q waves more pronounced than last TTE in ___, stress 
MIBI at ___ positive for inferolateral ischemia and cor angio 
___ at ___ showing triple vessel disease. He received ASA 
325mg and was started on atorvastatin at the outside hospital. 
We continued the atorvastatin and his home ASA 81mg/day. He 
started metoprolol tartrate titrated up to 12.5mg QID, and 
started a heparin gtt leading up to CABG given that the patient 
had a brief recurrence of CP.  
He was taken to the operating room on ___. He underwent 
coronary artery bypass grafting x4. Please see operative note 
for full details. In summary he had:
1.  Coronary artery bypass graft x 4.  Total arterial 
revascularization.
2.  Skeletonized left internal mammary artery sequential 
grafting to the diagonal and the left anterior descending 
artery.
3.  Skeletonized free right internal mammary artery as a T graft 
off the left internal mammary artery to the distal circumflex.
4.  Left radial artery grafting to posterior descending artery.
5.  Endoscopic harvesting of the left radial artery.
He tolerated the procedure well and was transferred to the CVICU 
in stable condition for recovery and invasive monitoring. He 
weaned from sedation, awoke neurologically intact and was 
extubated on the day of surgery. He was weaned from intravenous 
medications, Beta blocker and nitrates were initiated and he was 
diuresed toward his preoperative weight. He remained 
hemodynamically stable and was transferred to the telemetry 
floor for further recovery. Beta blockers were titrated up with 
HR >100 for several days. He was transitioned from nitroglycerin 
to Imdur for radial artery graft, and should continue this for 3 
months postop. ACE-I was started with preop NSTEMI. He was 
restarted on his home oral diabetic medications and Lantus for 
hyperglycemia. Chest tubes remained in an additional day due to 
high serous drainage. Chest tubes and pacing wires were removed 
per cardiac surgery protocol without complication. He was 
evaluated by the physical therapy service for assistance with 
strength and mobility. By the time of discharge on POD 4 he was 
ambulating with assistance, the wound was healing, and pain was 
controlled with oral analgesics. He was discharged to ___ at 
___ in good condition with appropriate follow up 
instructions.   Prevena should be removed on POD 7 (___).

 
Medications on Admission:
1. Albuterol Inhaler 1 PUFF IH Q4H:PRN SOB, wheezing 
2. Aspirin 81 mg PO DAILY 
3. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
4. Gabapentin 1200 mg PO BID 
5. Lantus U-100 Insulin (insulin glargine) 40 units subcutaneous 
QHS 
6. MetFORMIN (Glucophage) 1000 mg PO BID 
7. Simvastatin 20 mg PO QPM 
8. Tamsulosin 0.4 mg PO QHS 
9. Lisinopril 20 mg PO DAILY 
10. coenzyme Q10 10 mg oral DAILY 
11. Multivitamins 1 TAB PO DAILY 
12. Vitamin B Complex 1 CAP PO DAILY 
13. Vitamin D 1000 UNIT PO DAILY 
14. Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
15. Docusate Sodium 100 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
2.  Bisacodyl ___AILY:PRN constipation  
3.  Furosemide 20 mg PO DAILY Duration: 2 Weeks  
4.  Isosorbide Dinitrate 5 mg PO TID  
5.  Metoprolol Tartrate 100 mg PO TID  
6.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain: 
moderate/severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*0 
7.  Polyethylene Glycol 17 g PO DAILY  
8.  Potassium Chloride 20 mEq PO DAILY Duration: 2 Weeks 
Hold for K >4.5  
9.  Ranitidine 150 mg PO BID Duration: 1 Month  
10.  Senna 17.2 mg PO DAILY  
11.  Glargine 45 Units Bedtime
Insulin SC Sliding Scale using REG Insulin 
12.  Lisinopril 2.5 mg PO DAILY  
13.  Albuterol Inhaler 1 PUFF IH Q4H:PRN SOB, wheezing  
14.  Aspirin 81 mg PO DAILY  
15.  coenzyme Q10 10 mg oral DAILY  
16.  Cyclobenzaprine 10 mg PO HS:PRN Muscle spasm  
17.  Docusate Sodium 100 mg PO DAILY  
18.  Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID  
19.  Gabapentin 1200 mg PO BID  
20.  MetFORMIN (Glucophage) 1000 mg PO BID  
21.  Multivitamins 1 TAB PO DAILY  
22.  Simvastatin 20 mg PO QPM  
23.  Tamsulosin 0.4 mg PO QHS  
24.  Tiotropium Bromide 1 CAP IH DAILY  
25.  Vitamin B Complex 1 CAP PO DAILY  
26.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Primary:
Coronary Artery Disease/Non-ST Elevation Myocardial Infarction
s/p CABG x4

Secondary:
Back Pain 
Chronic Obstructive Pulmonary Disease
Diabetes Mellitus Type II
Hyperlipidemia
Hypertension
Knee Pain 
Obstructive Sleep Apnea
Renal Cell Carcinoma 

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, Prevena
Edema-1+

 
Discharge Instructions:
Please shower daily -wash incisions gently with mild soap, no 
baths or swimming, look at your incisions daily
Please - NO lotion, cream, powder or ointment to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for one month or while taking narcotics. Clearance to 
drive will be discussed at follow up appointment with surgeon
No lifting more than 10 pounds for 10 weeks
Encourage full shoulder range of motion, unless otherwise 
specified

**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

Prevena instructions
       The Prevena Wound dressing should be left on for a total 
of 7 days post-operatively to receive the full benefit of the 
therapy.  The date of Day # 7 (___) should be written on a 
piece of tape on the canister to ensure that the nurse from the 
___ or ___ facility knows when to remove the dressing and 
inspect the incision.  If the date is not written, please alert 
your nurse prior to discharge.  
- You may shower, however, please avoid getting the dressing and 
suction canister soiled or saturated.  
- You will be sent home with a shower bag to hold the suction 
canister while bathing. 
- If the dressing does become soiled or saturated, turn the 
power off and remove the dressing.  The entire unit may then be 
discarded.  Should this happen, please notify your ___ nurse, so 
they may make plans to see you the following day to assess your 
incision.  
- Once the Prevena dressing is removed, you may wash your 
incision daily with a plain white bar soap, such as Dove or 
___.  Do not apply any creams, lotions or powders to your 
incision and monitor it daily.  
- If you notice any redness, swelling or drainage, please 
contact your surgeon's office at ___.  
 
Followup Instructions:
___